US09328110B2
A solution of 6-(3-aminoquinolin-4-ylamino)-1-phenylhexan-1-one (2.09 g, 6.25 mmol) and trimethyl orthovalerate (1.52 g, 9.37 mmol) in toluene (50 mL) was heated at reflux under a Dean-Stark trap for 2 hours, then concentrated under reduced pressure to provide 6-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one (2.19 g) as a dark red oil that was used directly in the next step without further purification.

reactant | 6-(3-aminoquinolin-4-ylamino)-1-phenylhexan-1-one | 6.25 mmol, 2.09 g | NC=1C=NC2=CC=CC=C2C1NCCCCCC(=O)C1=CC=CC=C1 | C21H23N3O
reactant | trimethyl orthovalerate | 9.37 mmol, 1.52 g | C(CCCC)(OC)(OC)OC | C8H18O3
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one | 2.19 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)C1=CC=CC=C1 | C26H29N3O
